US07799918B2
Preparation of N-(2-chloro-pyridin-3-yl)-N-methyl-benzamide
4.6 g N-(2-chloro-pyridin-3-yl)-benzamide (20 mmol), 8.2 g potassium carbonate (K2CO3) (60 mmol), and 50 mL ethanol were added and stirred in a round-bottomed flask. 4.2 g methyl iodide (MeI) (30 mmol) was then added and reacted for 24 hr. After cooling to room temperature, the reaction was quenched by water. After extraction three times by ethyl acetate, removal of water by magnesium sulphate (MgSO4), concentration, and purification by column, 4.18 g white solid was obtained, with a yield of 85%.

reactant | N-(2-chloro-pyridin-3-yl)-benzamide | 20 mmol, 4.6 g | ClC1=NC=CC=C1NC(C1=CC=CC=C1)=O | C12H9ClN2O
reactant | potassium carbonate | 60 mmol, 8.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 30 mmol, 4.2 g | CI | CH3I
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-(2-chloro-pyridin-3-yl)-N-methyl-benzamide | 4.18 g, yield of 85% | ClC1=NC=CC=C1N(C(C1=CC=CC=C1)=O)C | C13H11ClN2O
